US07144908B2
ii) 3-Iodo-α-methyl-D-phenylalanine
A mixture of benzyl (2S,4R)-4-(3-iodobenzyl)-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate (1.47 g) and potassium trimethylsilanolate (1.2 g) was suspended in THF (50 ml) and heated to 75° C. for 2.5 h. MeOH (10 ml) was added and the solvents were removed under reduced pressure. The residue was dissolved in MeOH and applied to two 10 g SCX-2 cartridges eluting with MeOH and then with 0.2M ammonia in MeOH. The ammoniacal solutions were evaporated to dryness to give the title compound (910 mg) LCMS RT=1.93 min.

reactant | benzyl (2S,4R)-4-(3-iodobenzyl)-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate | 1.47 g | IC=1C=C(C[C@]2(N([C@@H](OC2=O)C2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)C)C=CC1 | C25H22INO4
reactant | potassium trimethylsilanolate | 1.2 g | C[Si]([O-])(C)C.[K+]
reactant | MeOH | 10 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-Iodo-α-methyl-D-phenylalanine | 910 mg | IC=1C=C(C[C@@](N)(C(=O)O)C)C=CC1 | C10H12INO2
